US05652370
Mix 4-(4-chloro-1-oxobutyl)-2,2-dimethylphenethyl acetate (99.5 g, 0.335 mol), α,α-diphenyl-4-piperidinemethanol (101.8 g, 0.335 mol), potassium hydrogen carbonate (83.8 g, 0.838 mol), potassium iodide (1.00 g, 0.006 mol), toluene (600 mL) and water (220 mL). Stir at reflux for 72 hours, add toluene (200 mL) and deionized water (100 mL). Filter through filter aid while at 80° C. and separate the organic phase. Dry (MgSO4), filter and purify by chromatography (ethyl acetate) to give 4-[4-[4-(hydroxydiphenylmethyl)-1-piperidinyl]-1-oxobutyl]-2,2-dimethylphenethyl acetate as an oily solid.

reactant | 4-(4-chloro-1-oxobutyl)-2,2-dimethylphenethyl acetate | 0.335 mol, 99.5 g | C(C)(=O)OCCC1C(C=C(C=C1)C(CCCCl)=O)(C)C | C16H23ClO3
reactant | α,α-diphenyl-4-piperidinemethanol | 0.335 mol, 101.8 g | C1(=CC=CC=C1)C(O)(C1CCNCC1)C1=CC=CC=C1 | C18H21NO
reactant | potassium hydrogen carbonate | 0.838 mol, 83.8 g | C(O)([O-])=O.[K+]
reactant | potassium iodide | 0.006 mol, 1.00 g | [I-].[K+]
solvent | water | 100 mL | O | H2O
solvent | toluene | 200 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 220 mL | O | H2O
solvent | toluene | 600 mL | C1(=CC=CC=C1)C | C7H8
product | 4-[4-[4-(hydroxydiphenylmethyl)-1-piperidinyl]-1-oxobutyl]-2,2-dimethylphenethyl acetate | C(C)(=O)OCCC1C(C=C(C=C1)C(CCCN1CCC(CC1)C(C1=CC=CC=C1)(C1=CC=CC=C1)O)=O)(C)C | C34H43NO4
